US07226644B2
Under nitrogen replacement, 110 g of 1-ethynyl-2,3,4-trifluorobenzene was dissolved in 440 mL of THF. To this, 846 mL of methylmagnesium bromide (1.0 M in Toluene/THF=4/1) was added dropwise for 1 hour while ice-cooling, and stirred for 30 minutes. To this, 72.8 g of pentanal was added dropwise for 1 hour, warmed to room temperature, and stirred for 1 hour. After the reaction solution was poured into 300 g of ice/300 mL of concentrated hydrochloric acid, and stirred for a while, an organic layer was separated and an aqueous layer was extracted with toluene. After the extract and the organic layer were mixed together, washed using water and a saturated saline solution in that order, and dried using anhydrous magnesium sulfate, the solvent was evaporated under a reduced pressure to obtain a brown oily material. This was purified by column chromatography (silica gel, toluene) to obtain 183 g of 1-(3-hydroxy-1-heptynyl)-2,3,4-trifluorobenzene as a reddish brown oily material.

reactant | 1-ethynyl-2,3,4-trifluorobenzene | 110 g | C(#C)C1=C(C(=C(C=C1)F)F)F | C8H3F3
reactant | methylmagnesium bromide | 1.0 M, 846 mL | C[Mg]Br
reactant | pentanal | 72.8 g | C(CCCC)=O | C5H10O
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 440 mL | C1CCOC1 | C4H8O
product | 1-(3-hydroxy-1-heptynyl)-2,3,4-trifluorobenzene | 183 g | OC(C#CC1=C(C(=C(C=C1)F)F)F)CCCC | C13H13F3O
